US07544697B2
A stirred solution of ethyl 5-[2-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)ethyl]-1-propyl-1H-pyrazole-3-carboxylate (45.1 g, 127 mmol) in 1 M aqueous hydrochloric acid (157 mL) and acetic acid (157 mL) was heated at 95° C. (internal temperature) for 10 hours and then cooled to 10° C. Water (300 mL) was added and a white solid was isolated by filtration, washed with water and diethyl ether, and dried. The solid was treated with toluene (150 mL) and heated at reflux for 3 hours with a Dean-Stark trap. The mixture was cooled in an ice bath to 10° C. and a solid was isolated by filtration and dried to provide 28.85 g of 5-[2-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)ethyl]-1-propyl-1H-pyrazole-3-carboxylic acid.

reactant | ethyl 5-[2-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)ethyl]-1-propyl-1H-pyrazole-3-carboxylate | 127 mmol, 45.1 g | O=C1N(C(C2=CC=CC=C12)=O)CCC1=CC(=NN1CCC)C(=O)OCC | C19H21N3O4
reactant | Water | 300 mL | O | H2O
solvent | hydrochloric acid | 1 M, 157 mL | Cl | ClH
solvent | acetic acid | 157 mL | C(C)(=O)O | C2H4O2
product | 5-[2-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)ethyl]-1-propyl-1H-pyrazole-3-carboxylic acid | 28.85 g | O=C1N(C(C2=CC=CC=C12)=O)CCC1=CC(=NN1CCC)C(=O)O | C17H17N3O4
